US05192797
2-Aminopropyl-5-(naphthalen-1-yl)-1,3-dioxane, hydrochloride
Sufficient ethereal hydrogen chloride is added to 4 g (25 mmol) of 4,4-diethoxybutylamine in 500 ml of benzene to precipitate all the hydrochloride. 4 g (20 mmol) of 2-(naphthalen-1-yl)propane-1,3-diol in 200 ml of benzene and 100 mg of paratoluenesulphonic acid are then added, and the mixture is evaporated to dryness in a bath at 100° C. A further 700 ml of benzene are added, the mixture is evaporated under the same conditions, and the residue is then placed in vacuo at 100 C for 4 h. It is recrystallised in diethyl ether, dried at 60° C., recrystallised twice in ethanol, treating it with vegetable charcoal during the first recrystallisation, washed with diethyl ether and dried at 80° C. 3.2 g (10.4 mmol) of product are obtained.

reactant | hydrogen chloride | Cl | ClH
reactant | 4,4-diethoxybutylamine | 25 mmol, 4 g | C(C)OC(CCCN)OCC | C8H19NO2
reactant | 2-(naphthalen-1-yl)propane-1,3-diol | 20 mmol, 4 g | C1(=CC=CC2=CC=CC=C12)C(CO)CO | C13H14O2
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | paratoluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-Aminopropyl-5-(naphthalen-1-yl)-1,3-dioxane, hydrochloride | 10.4 mmol, 3.2 g | Cl.NC(CC1OCC(CO1)C1=CC=CC2=CC=CC=C12)C | InChI=1S/C17H21NO2.ClH/c1-12(18)9-17-19-10-14(11-20-17)16-8-4-6-13-5-2-3-7-15(13)16;/h2-8,12,14,17H,9-11,18H2,1H3;1H
